US04675320
A mixture of 4.6 g. (0.02 mole) of 5-cyanomethyl-3-phenylbenzofuran, 1.5 g. of sodium azide and 1.2 g. of ammonium chloride in 15 ml. of N,N-dimethylformamide is heated at 110° C. for 20 hours. The reaction mixture is poured into 200 ml. of water and stirred. The mixture is extracted with 50 ml. of chloroform. The extracts are washed with water, then dried over magnesium sulfate. Evaporation provides a residue which is recrystallized from ethyl acetate to provide 3-phenyl-5-(1H-tetrazol-5yl)methylbenzofuran.

reactant | 5-cyanomethyl-3-phenylbenzofuran | 0.02 mole | C(#N)CC=1C=CC2=C(C(=CO2)C2=CC=CC=C2)C1 | C16H11NO
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-phenyl-5-(1H-tetrazol-5yl)methylbenzofuran | C1(=CC=CC=C1)C1=COC2=C1C=C(C=C2)CC2=NN=NN2 | C16H12N4O
